US08168797B2
Step 1: Preparation of 3,5-difluoro-4(7,7-ethylenedioxy-5-azaspiro[2,4]heptan-5-yl)nitrobenzen
To a solution of 7,7-ethylenedioxy-5-azaspiro[2,4]heptane in acetonitrile (50 mL) was dropwise added 3,4,5-trifluoronitrobenzene (5.3 g, 31.6 mmol) and the reaction mixture was refluxed for 3 hours. After the reaction was terminated, the reaction mixture was cooled to room temperature and the solvent was removed therefrom by vacuum distillation. It was diluted with ethyl acetate and water, and the organic phase thus formed was dried over magnesium sulfate. The residue was filtered, concentrated in a vacuum, and purified through column chromatography (n-hexane/ethyl acetate=4:1) to afford the target compound (3.5 g, yield 66%).

reactant | 7,7-ethylenedioxy-5-azaspiro[2,4]heptane | C1OC2(CNCC23CC3)OC1 | C8H13NO2
reactant | 3,4,5-trifluoronitrobenzene | 31.6 mmol, 5.3 g | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3,5-difluoro-4(7,7-ethylenedioxy-5-azaspiro[2,4]heptan-5-yl)nitrobenzen | 3.5 g, yield 66% | FC=1C=C(C=C(C1N1CC2(CC2)C2(C1)OCCO2)F)[N+](=O)[O-] | C14H14F2N2O4
